US06693123B2
To a solution in 5:1 methanol-H2O (3.5 mL) of [4-(3-pyridyloxymethyl)-2-phenoxybenzoyl]methionine methyl ester (440 mg), prepared as in Example 157G, was added a solution of 50% NaOH (354 mg) in water (0.8 mL) and the reaction mixture was heated at 60° C. for 15 minutes. The reaction mixture was concentrated in vacuo and the residue was taken up in H2O (3, mL). The aqueous solution was acidified with concentrated HCl (415 mg) and 2 drops of ethyl acetate were added. The resulting solid was filtered and dried in a vacuum oven at 60° C. for 3 hours to give [4-(3-pyridyloxymethyl)-2-phenoxybenzoyl]methionine (373 mg). mp 195° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.90 (m, 4H), 2.37 (m, 2H), 4.44 (m, 1H), 5.20 (s, 2H), 7.01 (s, 2H), 7.04 (s, 1H), 7.16 (t, 1H, J=7.4 Hz), 3.66 (m, 5H), 7.70 (d, 1H, J=9.0 Hz), 8.17 (dd, 1H, J=4.4, 1.5 Hz), 8.30 (d, 1H, J=3 Hz). Anal calcd for C24H24N2O5S: C, 63.70; H, 5.35; N, 6:59. Found: C, 63.46; H, 5.11; N, 6.08.

reactant | methanol H2O | 3.5 mL | CO.O
reactant | [4-(3-pyridyloxymethyl)-2-phenoxybenzoyl]methionine methyl ester | 440 mg | COC([C@@H](NC(C1=C(C=C(C=C1)COC=1C=NC=CC1)OC1=CC=CC=C1)=O)CCSC)=O | C25H26N2O5S
reactant | NaOH | 354 mg | [OH-].[Na+]
solvent | water | 0.8 mL | O | H2O
product | [4-(3-pyridyloxymethyl)-2-phenoxybenzoyl]methionine | 373 mg | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)OC1=CC=CC=C1 | C24H24N2O5S
